US04005150
To a solution of 2 g. of sodium in 50 ml. of methanol at about 0° is added about 35 g. of p-nitrophenyl mercaptan. After about 0.5 hour, about 15 g. of 3,7-dimethyloct-6-enyl bromide is added and then the mixture refluxed for about 3 hours. Then the solvent is evaporated and the concentrate taken up in petroleum ether which is washed with water, dried over magnesium sulfate and evaporated to yield 3,7-dimethyloct-6-enyl p-nitrophenyl sulfide which is used as the starting material in the process of Example 2 to yield 7-ethoxy-3,7-dimethyloctyl p-nitrophenyl sulfide.

reactant | sodium | [Na] | Na
reactant | p-nitrophenyl mercaptan | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | 3,7-dimethyloct-6-enyl bromide | CC(CCBr)CCC=C(C)C | C10H19Br
solvent | methanol | CO | CH4O
product | 3,7-dimethyloct-6-enyl p-nitrophenyl sulfide | [N+](=O)([O-])C1=CC=C(C=C1)SCCC(CCC=C(C)C)C | C16H23NO2S
